US07045544B2
Ethyl 1-(2,4-difluorobenzyl)-5-nitro-1H-indole-2-carboxylate
Under argon, 214 mg (0.81 mmol) of 1,4,7,10,13,16-hexaoxacyclooctadecane (18-crown-6) are initially charged in 43 ml of THF, and 9.73 ml (9.73 mmol) of 1-molar potassium tert-butoxide solution in THF and 2000 mg (8.11 mmol) of ethyl 5-nitro-1H-indole-2-carboxylate are added. The mixture is stirred at RT for 15 minutes and then cooled to 0° C. A solution of 1713 mg (8.11 mmol) of 2,4-difluorobenzyl bromide in 13 ml of TKF is slowly added dropwise. The ice-bath is removed and the mixture is stirred at RT for 1 hour. For work-up, the mixture is diluted with water and the THF is removed under reduced pressure using a rotary evaporator. The aqueous residue is extracted with ethyl acetate and the organic phase is washed with sat. sodium chloride solution, dried with sodium sulphate, filtered and dried under reduced pressure. The residue is purified by column chromatography (mobile phase: cyclohexane:ethyl acetate 5:1).

reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.81 mmol, 214 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | potassium tert-butoxide | 9.73 mmol, 1-molar, 9.73 ml | CC(C)([O-])C.[K+]
reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 8.11 mmol, 2000 mg | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | 2,4-difluorobenzyl bromide | 8.11 mmol, 1713 mg | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | THF | 43 ml | C1CCOC1 | C4H8O
product | Ethyl 1-(2,4-difluorobenzyl)-5-nitro-1H-indole-2-carboxylate | FC1=C(CN2C(=CC3=CC(=CC=C23)[N+](=O)[O-])C(=O)OCC)C=CC(=C1)F | C18H14F2N2O4
